US09301951B2
Intermediate 1.1h: methyl 2-(2-amino-5-(piperidin-1-yl)phenyl)isonicotinate
Into a 100-mL round bottom flask, was placed a solution of methyl 2-(2-nitro-5-(piperidin-1-yl)phenyl)isonicotinate (1.8 g, 5.28 mmol, 1.00 equiv) in methanol (15 mL), and a solution of NH4Cl (850 mg, 15.89 mmol, 3.00 equiv) in water (7.9 mL). This was followed by the addition of iron (2.9 g, 51.79 mmol, 9.99 equiv) in several batches at 70° C. The resulting solution was stirred for 4 h at 70° C. in an oil bath. The solids were filtered out. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 10 mL of water, extracted with 3×20 mL of ethyl acetate, and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 1.4 g (85%) of methyl 2-(2-amino-5-(piperidin-1-yl)phenyl)isonicotinate as a black semi-solid.

reactant | methyl 2-(2-nitro-5-(piperidin-1-yl)phenyl)isonicotinate | 5.28 mmol, 1.8 g, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C=1C=C(C(=O)OC)C=CN1 | C18H19N3O4
reactant | NH4Cl | 15.89 mmol, 850 mg, 3.00 equiv | [NH4+].[Cl-]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 7.9 mL | O | H2O
catalyst | iron | 51.79 mmol, 2.9 g, 9.99 equiv | [Fe] | Fe
product | methyl 2-(2-amino-5-(piperidin-1-yl)phenyl)isonicotinate | NC1=C(C=C(C=C1)N1CCCCC1)C=1C=C(C(=O)OC)C=CN1 | C18H21N3O2
